US06284911B1
Synthesis of 2-Methacryloxy-1-Ethyl Vinyl Carbonate
A solution of p-nitrophenyl vinyl carbonate, hydroxyethylmethacrylate, DMSO and sodium hydroxide is stirred at room temperature for a minimum of 12 hours. Reaction completion is monitored by G.C. The solution is drowned into water and the mixture extracted with ethyl acetate. The product solution is washed with water, dried with magnesium sulfate, then stripped to an oil under vacuum. The crude product is then purified.

reactant | p-nitrophenyl vinyl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC=C)=O | C9H7NO5
reactant | hydroxyethylmethacrylate | OCCOC(C(=C)C)=O | C6H10O3
reactant | DMSO | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Methacryloxy-1-Ethyl Vinyl Carbonate | C(OCCOC(C(=C)C)=O)(OC=C)=O | C9H12O5
